US08067638B2
Preparation of 3-(benzoylamino)benzoic acid
To a solution of 1.37 g of 3-aminobenzoic acid and 0.4 g of sodium hydroxide added to 50 ml of water was added dropwise 1.41 g of benzoyl chloride and a solution of 0.4 g of sodium hydroxide dissolved in 5 ml of water under an ice bath at the same time, and the resulting mixture was stirred at room temperature for 6 hours. The reaction solution with 1N hydrochloric acid added thereto was adjusted to pH 1, and then the precipitated solid was filtered off and collected to obtain 1.92 g of the desired product (Yield: 80%) as a white solid.

reactant | 3-aminobenzoic acid | 1.37 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | benzoyl chloride | 1.41 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-(benzoylamino)benzoic acid | 1.92 g, Yield: 80% | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)O)C=CC1 | C14H11NO3
